US05541229
4'-[(2-n-Butyl-benzimidazol-1-yl)-methyl]-5-chloro-biphenyl-2-carboxylic Acid
Prepared in analogous manner to Example 9 from tert.butyl 4'-[(2-n-butyl-benzimidazol-1-yl)-methyl]-5-chloro-biphenyl-2-carboxylate and trifluoroacetic acid.

reactant | tert.butyl 4'-[(2-n-butyl-benzimidazol-1-yl)-methyl]-5-chloro-biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=C(C1)Cl)C(=O)OC(C)(C)C)C=CC=C2 | C29H31ClN2O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4'-[(2-n-Butyl-benzimidazol-1-yl)-methyl]-5-chloro-biphenyl-2-carboxylic Acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=C(C1)Cl)C(=O)O)C=CC=C2 | C25H23ClN2O2
